US06531491B1
A mixture of 4-chloro-1H-pyrazolo[3,4-b]pyridine (820 mg, 5.30 mmol), sodium iodide (2.4 mg, 16.0 mmol), and acetyl chloride (0.8 ml) in acetonitrile (6 ml) was refluxed 8 h. The mixture was then treated with a 10% aqueous solution of NaCO3 (10 ml), and a 10% aqueous solution of NaHSO3 (10 ml), and held 10 min. The mixture was extracted with ethyl acetate (50 ml), and the organics were washed with brine (10 ml), dried over MgSO4, and evaporated under reduced pressure. Purification by silica gel chromatography gave 1-(4-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone as a brown solid (650 mg, 42%). 1H NMR (300 MHz, CDCl3) δ 8.39 (d, 1H, J=5.0 Hz), 8.04 (s, 1H), 7.76 (d, 1H, J=5.0 Hz), 2.88 (s, 3H).

reactant | 4-chloro-1H-pyrazolo[3,4-b]pyridine | 5.30 mmol, 820 mg | ClC1=C2C(=NC=C1)NN=C2 | C6H4ClN3
reactant | sodium iodide | 16.0 mmol, 2.4 mg | [I-].[Na+]
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | NaHSO3 | 10 ml | OS(=O)[O-].[Na+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 1-(4-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 650 mg, 42% | IC1=C2C(=NC=C1)N(N=C2)C(C)=O | C8H6IN3O
